2112-05-10 06:52:00 Physician Resident Progress Note
Chief Complaint: VT, NSTEMI
   24 Hour Events:
 ARTERIAL LINE - START [**2112-5-9**] 05:36 PM
 EKG - At [**2112-5-10**] 12:06 AM
   CK peak 1225
   Started heparin gtts
   Titrating metoprolol
   S:
   Pt complains of persistent upper Right sided shoulder / chest pain.
   Worse w/ inspiration.  Gradual onset last night, and still present.
   Also w/ sharp lower bilat abdominal pain this morning.  Surgery made
   aware, and cardiology consulted.  Heparing gtts started.
   Allergies:
   Prednisone
   psychosis;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 500 units/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Insulin - Regular - [**2112-5-9**] 10:30 PM
   Metoprolol - [**2112-5-10**] 04:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-5-10**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.1
   HR: 86 (78 - 94) bpm
   BP: 108/58(76) {105/54(72) - 138/81(102)} mmHg
   RR: 13 (10 - 19) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  4,620 mL
                                                                    787 mL
   PO:
             TF:
   IVF:
                                                                    820 mL
                                                                    787 mL
   Blood products:
   Total out:
                                                                  1,130 mL
                                                                    500 mL
   Urine:
                                                                    388 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,490 mL
                                                                    287 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.35/40/115/27/-3
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: post surgical, tender, no rebound
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, date, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   249 K/uL
   13.8 g/dL
   184 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.3 mEq/L
   17 mg/dL
   105 mEq/L
   140 mEq/L
   38.7 %
   9.3 K/uL
        [image002.jpg]
                             [**2112-5-9**]  02:18 PM
                             [**2112-5-9**]  03:11 PM
                             [**2112-5-9**]  03:44 PM
                             [**2112-5-9**]  04:52 PM
                             [**2112-5-9**]  05:35 PM
                             [**2112-5-9**]  09:31 PM
                             [**2112-5-9**]  10:15 PM
                             [**2112-5-10**]  02:55 AM
                             [**2112-5-10**]  04:16 AM
   WBC
   8.4
   9.3
   Hct
   39.8
   38.7
   Plt
   306
   249
   Cr
   0.9
   0.9
   TropT
   0.12
   2.68
   TCO2
   30
   30
   27
   29
   26
   23
   Glucose
   156
   163
   184
   Other labs: PT / PTT / INR:12.7/31.1/1.1, CK / CKMB /
   Troponin-T:1038/171/2.68, Lactic Acid:1.2 mmol/L, Ca++:8.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   53 y/o M with h/o CAD, Ulcerative colitis, now s/p colectomy +
   ileostomy who had episode of VT in the PACU.
    # CARDS
   **NSTEMI
   Peak CK 1225, Trop 2.68.
   Unclear if this was demand ischemia post VT (though large CK bump for
   this) or NSTEMI
 VT.
   Have discussed w/ cardiology this AM, who would like to increase
   heparin gtts to goal ptt 60-80 (careful to watch for post op bleeding)
   and take pt [**Name (NI) **] for cardiac catheterization.
   Will cont to medically optimize, w/ beta blockade w/ IV metoprolol,
   titrating up, as BP allows.
   - atorvastatin, aspirin, BB
   - serial EKG
   - cont IV heparin
   **VT:
   Possible etiologies include from old MI scar, low mag or an acute
   ischemic event.  No events since yesterday.  Will cont amio @ current
   rate per cards reccs.
    - serial EKG's
   - telemetry.
   - beta blockers to goal HR 60'[**74**]'s (as BP allows)
   - monitoring lytes closely MG and K
   .
   # Respiratory acidosis / Hypercarbia
   RESOLVED
   PE is also on ddx.  Should cont to have low threshold for evaluation,
   either w/ R sided cath or CTA, esp if continues w/ refractory hypoxia.
   Likely w/ excess sedation from pain meds.
   Monitor, dilaudid PCA without basal.
   .
   # [**Doctor Last Name **] Day 1 s/p colectomy + ileostomy
   Mild abdominal pain.
   - dilauded PCA
   - monitor urine output goal >0.5 cc/kg/hr
   - bolus necessary
   # Sleep disordered breathing / OSA?
   Is at risk for post-procedure hypercarbia and sedation; may benefit
   from BiPAP trial overnight and judicious use of pain meds.
   .
   # DM: insulin sliding scale
   .
   # FENA: NPO for now. replete electrolytes PRN
   # Prophylaxis: pneumoboots. no ppi for now. no bowel regimen
   .
   #Access: PIVs, A line
   # Dispo:
   [**Hospital Ward Name **]
 cardiac catheterization
   .
   # Full code
   ICU Care
   Nutrition: npo
   Glycemic Control:  ssi
   Lines:
   Arterial Line - [**2112-5-9**] 05:36 PM
   18 Gauge - [**2112-5-9**] 05:38 PM
   16 Gauge - [**2112-5-9**] 05:38 PM
   Prophylaxis:
   DVT: iv heparin, boots
   Stress ulcer: ppi
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: [**Hospital Ward Name **] / cardiac cath

2112-05-10 09:30:00 Physician Attending Progress Note
Chief Complaint: post op VT and hypercarbic resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2112-5-9**] 05:36 PM
 EKG - At [**2112-5-10**] 12:06 AM
   Chest pains overnight with ecg changes, not ST elevation, but rising CK
   and + troponins. Initiated on heparin gtts in consultation with
   cardiology and surgery.
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Prednisone
   psychosis;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 500 units/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Metoprolol - [**2112-5-10**] 04:40 AM
   Insulin - Regular - [**2112-5-10**] 06:30 AM
   Other medications:
   Hydromorphone PCA, Reglan, Atorvastatin, ASA 325,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: [**4-12**] MildPain location: abdominal incision
   Flowsheet Data as of  [**2112-5-10**] 09:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 93 (78 - 94) bpm
   BP: 109/57(76) {105/54(72) - 138/81(102)} mmHg
   RR: 14 (10 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  4,620 mL
                                                                  1,084 mL
   PO:
             TF:
   IVF:
                                                                    820 mL
                                                                  1,084 mL
   Blood products:
   Total out:
                                                                  1,130 mL
                                                                    500 mL
   Urine:
                                                                    388 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,490 mL
                                                                    584 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.35/40/115/27/-3
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular:
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   13.8 g/dL
   249 K/uL
   184 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.3 mEq/L
   17 mg/dL
   105 mEq/L
   140 mEq/L
   38.7 %
   9.3 K/uL
        [image002.jpg]
                             [**2112-5-9**]  02:18 PM
                             [**2112-5-9**]  03:11 PM
                             [**2112-5-9**]  03:44 PM
                             [**2112-5-9**]  04:52 PM
                             [**2112-5-9**]  05:35 PM
                             [**2112-5-9**]  09:31 PM
                             [**2112-5-9**]  10:15 PM
                             [**2112-5-10**]  02:55 AM
                             [**2112-5-10**]  04:16 AM
   WBC
   8.4
   9.3
   Hct
   39.8
   38.7
   Plt
   306
   249
   Cr
   0.9
   0.9
   TropT
   0.12
   2.68
   TCO2
   30
   30
   27
   29
   26
   23
   Glucose
   156
   163
   184
   Other labs: PT / PTT / INR:12.7/31.1/1.1, CK / CKMB /
   Troponin-T:1038/171/2.68, Lactic Acid:1.2 mmol/L, Ca++:8.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   1.           Hypercarbic Resp Failure: post op with narcotics
   administered and hx of OSA leading to CO2 retention and resp acidosis.
   Now waking up and improving mental status
 monitored closely through
   evening as pain control  managed with PCA- ABG now within normal limits
   3.       NSTEMI: etiology that is most concerning is ischemia with
   rising trop and CK- Cardiology planning to take West for
             cardiac catheterization. Cycle enzymes, bblocker, ASA,
   statin.  Concern also raised for PE as this chest pain is
   pleuritic, different from prior MI, and he was having resp acidosis
   with this- this should be eval either in cath lab via PA gram or by
   CTA. Is anti coag at present.
   4.       V Tach: Amio gtts, anti coag.
   5.       POD#0 s/p colectomy: NPO, LR at 125/hr, monitor UOP, serial
   abd exams
          6.       Lytes: keep Mg above 2 and K above 4
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2112-5-9**] 05:36 PM
   18 Gauge - [**2112-5-9**] 05:38 PM
   16 Gauge - [**2112-5-9**] 05:38 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : tx to West
   Total time spent: 40